US05495020
To 2,3,6-trifluorotoluene (55 g) is added conc. sulfuric acid (366 ml) and the mixture is cooled to 0° C. Thereto a solution of potassium nitrate (44 g) in conc. sulfuric acid (120 ml) is added dropwise at below 10° C. and then the mixture is stirred for 15 minutes. The mixture is poured into ice-water, extracted with diethyl ether, and the extract is washed with water and dried. The solvent is distilled off to give 2,3,6-trifluoro-5-nitrotoluene (68.25 g), as yellow oil.

reactant | 2,3,6-trifluorotoluene | 55 g | FC1=C(C(=CC=C1F)F)C | C7H5F3
reactant | potassium nitrate | 44 g | [N+](=O)([O-])[O-].[K+]
solvent | sulfuric acid | 120 ml | S(O)(O)(=O)=O | H2O4S
solvent | sulfuric acid | 366 ml | S(O)(O)(=O)=O | H2O4S
product | 2,3,6-trifluoro-5-nitrotoluene | 68.25 g | FC1=C(C(=C(C=C1F)[N+](=O)[O-])F)C | C7H4F3NO2
